US07732444B2
Intermediate 5: 2-Chloro-4-(3-nitro-phenyl)-pyrimidine:
2,4 dichloropyrimidine was coupled to 3-nitrophenyl boronic acid following procedure A. The workup and purification protocol was modified as follows: The THF was removed from the reaction mixture by rotary evaporation and the residue taken up in ethyl acetate. The solution was washed with water followed by sat. NaCl and the organic layer concentrated by rotary evaporation until the product started to precipitate, at which point the flask was placed in an ice bath for two hours. The product was collected by filtration in a Buchner funnel. The yield was 60%. Product was >95% pure by LC-MS and showed the expected M+H+ of 236.

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 2-Chloro-4-(3-nitro-phenyl)-pyrimidine | yield was 60% | ClC1=NC=CC(=N1)C1=CC(=CC=C1)[N+](=O)[O-] | C10H6ClN3O2
